reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]1([H:13])[C:6]([H:17])([H:19])[O:7]1)([H:11])[H:12])([H:8])([H:9])[H:10].[C:4](=[C:5]([H:16])[H:18])([H:14])[H:15],104.97209478440901
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:3](=[O+:4][C:5](=[O:6])[H:14])[H:13].[C:1]([C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],91.2162838022603
[C:1]([O:2][C:3]1=[C:7]=[C:6]([H:12])[N:5]([H:11])[N:4]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],37.8761316911517
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:9].[C:3](=[N:4][H:15])([H:13])[H:14].[C:5](=[O:6])([C:7]([H:16])([H:17])[H:18])[H:10],95.41169487624359
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2][O:3][H:12])([H:8])([H:9])[H:10].[C:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])([H:11])[H:13],76.4624163908759
[C:1]([O:2][C:3]([C:6](=[C:5]=[C:4]([H:12])[H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],76.13793127899024
[O:1](/[C:2](=[C:3](/[O:4][H:8])[H:9])[C:5](=[O:6])[H:10])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7],50.36714904195881
[C:1]([O:2][H:13])([H:7])([H:8])[H:9].[C:3](=[C:4]([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11]>>[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],44.526451972457004
[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7]>>[O:1]([c:2]1[n:3]([H:9])[c:4]([H:8])[n:5][n:6]1)[H:7],60.3959045599631
[C:1]([O:2][C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4](=[C:5]([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[O:6]([H:13])[H:16],68.1737111469244
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([N:7]=[C:6]=[C:4]([C:5]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],80.82844702105899
[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2]/[C:3](=[N:4]/[N:5]([H:11])[H:12])[C:6]#[C:7][H:13])([H:8])([H:9])[H:10],128.513964366894
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:14])[C:3]([H:11])([H:12])[C@@:4]2([H:13])[O+:5]=[C-:6][C@@:7]12[H:15])([H:8])([H:9])[H:10],46.9412475562996
[C:1]([C@:2]1([H:10])[C@@:4]([O:6][H:16])([H:12])[C:5]1([H:14])[H:15])([H:7])([H:8])[H:9].[O:3]([H:11])[H:13]>>[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9],73.53015346208518
[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7]>>[O:1]=[C:2]([C:3](=[C:4])[C:5]#[N:6])[H:7],53.197684229585896
[N:1]([C:2]([N+:4]#[C-:3])([H:7])[H:8])([H:5])[H:6]>>[N:1]([C:2]([C:3]#[N:4])([H:7])[H:8])([H:5])[H:6],31.931212287367305
[C:1]([C:2](=[C:3]([H:11])[H:12])[O:4][H:13])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:14]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5](=[O:6])[H:14])([H:7])([H:8])[H:9],50.917797877384984
[C-:6]#[O+:7].[C:1]([C:2]([C:3]([O:4][H:14])=[C:5]([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:17]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],49.7573269170423
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([N:4]([H:10])[H:11])([H:7])([H:8])[H:9].[N:2]#[C:3][C:5]#[N:6],94.1738405065357
[C:1]([C@@:2]1([H:10])[C@@:3]2([H:11])[O:4][C:5]([H:13])=[C:6]([H:14])[C@@:7]12[H:15])([H:8])([H:9])[H:12]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C@@:3]3([H:11])[O:4][C:5]([H:12])([H:13])[C@:6]1([H:14])[C@@:7]23[H:15],117.2463133308679
[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])[H:8].[H:9][H:11],113.72254685686801
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](/[C:4](=[C:6](/[O:7][C:5]([H:14])([H:15])[H:16])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],97.1163321534099
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5](=[C:6]([H:16])[H:18])[O:7][H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][H:17],107.84266855445499
